US05620569
The hydroperoxide resulting from α-thujene can be reduced to 4-hydroxy-β-thujene and can then be hydrogenated, e.g. in the presence of Raney nickel, to give sabinene hydrate.

reactant | hydroperoxide | [O-]O
reactant | α-thujene | CC1=CCC2(C1C2)C(C)C | C10H16
catalyst | Raney nickel | [Ni] | Ni
product | sabinene hydrate | CC(C)C12CCC(C1C2)(C)O | C10H18O
